US07834063B2
4-((2,2-Dimethylpropyl){3-[(4-fluorophenyl)oxy]propyl}amino)-2-(trifluoromethyl)benzonitrile
Synthesized as described in Example 1C from 4-[(2,2-dimethylpropyl)(3-hydroxypropyl)amino]-2-(trifluoromethyl)benzonitrile and 4-fluorophenol: MS (ESI) m/z 409 (M+1).

reactant | 4-[(2,2-dimethylpropyl)(3-hydroxypropyl)amino]-2-(trifluoromethyl)benzonitrile | CC(CN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CCCO)(C)C | C16H21F3N2O
reactant | 4-fluorophenol | FC1=CC=C(C=C1)O | C6H5FO
product | 4-((2,2-Dimethylpropyl){3-[(4-fluorophenyl)oxy]propyl}amino)-2-(trifluoromethyl)benzonitrile | CC(CN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CCCOC1=CC=C(C=C1)F)(C)C | C22H24F4N2O
